US08304443B2
Tert-butyl 3-chloro-6-hydroxyindazole-1-carboxylate
Tert-butyl 6-(tert-butyldiphenylsilyloxy)-3-chloroindazole-1-carboxylate (17.415 g) which can be prepared according to the method described in Reference example 38, etc. was dissolved in dehydrated THF (150 mL), added with 1 mol/L-TBAF-THF solution (42 mL; manufactured by Tokyo Chemical Industry, Co., Ltd.), and stirred overnight at room temperature. The reaction solution was added with ethyl acetate and the organic layer was washed once with brine, once with water, and once with brine and dried over anhydrous sodium sulfate. After the solvent was evaporated under reduced pressure, the resulting residue was added with n-hexane (150 mL) and the suspension was subjected to ultrasonication treatment. The precipitate was filtered to obtain the title compound (6.3815 g).

reactant | Tert-butyl 6-(tert-butyldiphenylsilyloxy)-3-chloroindazole-1-carboxylate | 17.415 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2C(=NN(C2=C1)C(=O)OC(C)(C)C)Cl | C28H31ClN2O3Si
reactant | TBAF THF | 42 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-].C1CCOC1
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | Tert-butyl 3-chloro-6-hydroxyindazole-1-carboxylate | 6.3815 g | ClC1=NN(C2=CC(=CC=C12)O)C(=O)OC(C)(C)C | C12H13ClN2O3
